US07868177B2
A mixture of cesium carbonate (5.03 g, 15.4 mmol), 6-chloropyridin-3-ol (1.00 g, 7.72 mmol), and 4-(2-chloropyridin-3-yl)-2-(methylthio)pyrimidine (1.83 g, 7.72 mmol) was sealed and heated to 120° C. overnight. The reaction was cooled slightly and poured slowly into a rapidly stirring solution of 250 mL water. A tan precipitate resulted which was collected by filtration through a 0.45 micron filter. The solid was washed 3× with water, then dried in vacuo overnight to give 4-(2-(6-chloropyridin-3-yloxy)pyridin-3-yl)-2-(methylthio)pyrimidine as a tan solid. MS m/z=331 [M+H]+. Calc'd for C15H11ClN4OS: 330.8.

reactant | cesium carbonate | 15.4 mmol, 5.03 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-chloropyridin-3-ol | 7.72 mmol, 1.00 g | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | 4-(2-chloropyridin-3-yl)-2-(methylthio)pyrimidine | 7.72 mmol, 1.83 g | ClC1=NC=CC=C1C1=NC(=NC=C1)SC | C10H8ClN3S
solvent | water | 250 mL | O | H2O
product | 4-(2-(6-chloropyridin-3-yloxy)pyridin-3-yl)-2-(methylthio)pyrimidine | ClC1=CC=C(C=N1)OC1=NC=CC=C1C1=NC(=NC=C1)SC | C15H11ClN4OS
